datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]1([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])[H:11])([H:9])[H:10],166.23
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[S:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12](=[S:13])[H:14],43.0952
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:12])[H:11],72.425
[C:0](=[C:1]1[C:2]#[C:3][c:4]2[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]21)([H:10])[H:11].[H:16]>>[C:0](=[C:1]1[C:2]=[C:3]([H:16])[c:4]2[c:5]([H:12])[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]21)([H:10])[H:11],-0.008368
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7],373.242088
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20],73.7723
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:5])[H:6].[H:4][H:12],31.38
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],-2.9288
[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])([H:9])[H:17],95.14416
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11](=[S:12])[H:20])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:16])[H:5].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[S:12])[H:20])([H:13])([H:14])[H:15],17.9912
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])([C:10](=[S:11])[H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:15])[H:4].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])[C:10](=[S:11])[H:19])([H:12])([H:13])[H:14],62.4671
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([C:5]([C:6]([C:7]([O:8])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([C:5]([C:6]([C:7]([O:8][H:12])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:9])([H:10])[H:11],106.901
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24])([H:10])[H:11],69.4126
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],94.1818
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[C:12]([H:21])[H:22])[H:20])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:13])[H:14])[H:15])([C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[C:12]([H:21])[H:22])[H:20])[H:16])[H:3],30.3758
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27],69.036
